US05506234
0.5 g (0.00122 mol) of 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester is dissolved in 13 ml of toluene. To the solution cooled to -75° C. 2.3 ml of a 1,2-molar solution of diisobutylaluminiumhydride in toluene is slowly instilled under argon. It is stirred for 10 minutes more at -75° C., then for one hour at room temperature. 0.9 ml of methanol is slowly instilled to the reaction mixture again cooled to -75° C., it is stirred 10 minutes more, then 1.5 ml of a saturated potassium sodium tartrate solution is instilled. It is stirred for 20 minutes more at room temperature, then the mixture is extracted with ethyl acetate. The combined extracts are dried and concentrated by evaporation, the residue is recrystallized from ethanol. Thus 0.09 g (20% of theory) of 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-methanol is obtained, melting point 220°-222° C.

reactant | 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 0.00122 mol, 0.5 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CC1=CC=C(C=C1)Cl | C23H21ClN2O3
reactant | diisobutylaluminiumhydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 0.9 ml | CO | CH4O
reactant | potassium sodium tartrate | 1.5 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-methanol | 0.09 g, 20% | ClC1=CC=C(CC2=C3C=4C(=C(N=CC4NC3=CC=C2)CO)COC)C=C1 | C21H19ClN2O2
